US04244960
4.8 g. of 5-bromo-6-nitroindan, 4.5 g. of potassium tert.-butylate, 4.4 g. of 2-pyridinethiol are heated in 50 ml. of absolute dimethylformamide for 3 hours under nitrogen to 80°. The mixture is concentrated under vacuum; the residue is combined with ethyl acetate and extracted four times with water. The ethyl acetate phase is concentrated, and the residue is purified on a silica gel column (system: cyclohexane/ethyl acetate 4:1). After crystallization from ethanol, 3.3 g. of 5-nitro-6-(2-pyridylthio)indan is obtained, m.p. 74°.

reactant | 5-bromo-6-nitroindan | BrC=1C=C2CCCC2=CC1[N+](=O)[O-] | C9H8BrNO2
reactant | 2-pyridinethiol | N1=C(C=CC=C1)S | C5H5NS
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5-nitro-6-(2-pyridylthio)indan | [N+](=O)([O-])C=1C=C2CCCC2=CC1SC1=NC=CC=C1 | C14H12N2O2S
